Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
2 days of diarrhea with weakness and fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mrs. ___ is an ___ year old ___ speaking woman with 
history of CVA residual complicated by L sided deficit, CAD, 
HTN, HLD, T2DM, and cognitive decline who presented to the ED 
with 2 days of diarrhea, weakness, and fever. 
 
Per the patient's daughter as reported on the ED dashboard: Mrs. 
___ had been having large quanitities of diarrhea over 
the last 2 days. No abdominal pain. Mental status at baseline. 
Very limited history was obtained from the patient's son, who 
arrived with her on the floor. Mrs. ___ did not sleep 
last night because she had to get up so many times to use the 
restroom.  

In the ED initial vitals were: 96.9, 84, 174/69, 18, 99% on 2L. 
She was weaned to 95% on RA. Fever spiked to 101.3 while in the 
ED.
- ED labs were significant for Na 131, BUN 24, BG 256, Mg 1.5, 
Hct 32 (bilateral ___, normal lactate, and UA with few 
bacteria, neg leuk, and 5 WBCs.  
- CXR showed no pneumonia or CHF. KUB showed normal bowel gas 
pattern.  
- The patient was given 1 dose of IV ceftriaxone.  
 
On the floor, Mrs. ___ was noted to be sleepy and 
provided little history. When her son says her name, she turns 
and opens her eyes. He asks if she has any pain, she shakes her 
head. He asks how she is feeling, and she says much better.  

Per the patient's PCP documentation of physical exam in ___: 
"Elderly female, mask like face, ambulating w/ major assistance 
w/ walker, extremely slowly, unsteady gait, patient is minimally 
verbal, keeps her eyes closed most of the time but when she 
engaged in conversation still has min verbal responces- ___  
words sentences. Forgetful - poor short and longterm memory but 
she responds appropriately w/ absence of any emotions on her 
face and voice. Oriented x 1. I noted that pt became coughing 
and choking while drinking water from the bottle w/ straw."  
The PCP notes during the ___ visit that Mrs. ___ 
has continued to decline both cognitively and from a mobility 
stand point. She expressed concern to the patient's daughter 
that her mother needs a higher level of care such as a nursing 
home or some form of 24 hour care. The daughter was documented 
to decline at that time.   
 
Past Medical History:
Chest Pain  
DM type 2  
Hypertension  
Hyperlipidemia  
Hypothyroid  
Chronic anemia, extensively worked-up as an out-patient with  
iron deficiency felt ___ gastritis.  
Neuropathy  
Breast cancer s/p lumpectomy/XRT/R axillary dissection in ___  
Pulmonary Nodules - stable from chest CT ___  
S/P sigmoid adenoma excision
Breast ca, s/p lumpectomy and XRT
Peripheral neuropathy
H/O pneumonia
Valve disease
B12 deficiency anemia
S/P b/l cataract surgery 
S/P hernia repair with recurrence 

 
Social History:
___
Family History:
Mother ___ ___ OLD AGE  
Father ___ ___ STOMACH CANCER  
Sister ___ ___ DIABETES MELLITUS  
Son Living ___ DIABETES TYPE II  
 
Physical Exam:
ADMISSION PHSYICAL EXAM
Vitals: 97.9, 129/52, 69, 18, 92% on RA  
GENERAL: elderly woman laying in bed comfortably with eyes 
closed, arouses easily to voice, turns toward her son and says 
short answers to his questions, then falls back to sleep. Per 
son, she is like this at baseline. She follows commands.  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MM dry, dentures  
CARDIAC: RRR, S1/S2, ___ systolic murmur heard throughout the 
precordium, no gallops or rubs  
LUNG: clear anterolaterally, exam limited due to pt somnolence, 
no wheezes, rales, rhonchi, breathing comfortably without use of 
accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII grossly intact. unable to formally assess 
strength due to pt mental status. moving all 4 extremities on 
command.  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

DISCHARGE PHYSICAL EXAM
Vitals: 98.3 141/70 88 20 97%(2L) 
General: waxing and waning level of alertness, at times 
difficult to arouse, NAD
HEENT: 2L NC, breathing through mouth
Lungs: exam limited by patient position
CV: Regular rate, normal S1 + S2; tele monitor on
Abdomen: Soft, nontender, nondistended. Significant ventral 
hernia. Vertical scar to the L of midline.
GU: Foley 
Ext: Warm, well perfused, ___ pulses, no edema; pulse oximeter 
on
Skin: dry, multiple moles, ulcerating lesion to L of sternum 
(~1-2cm)
Neuro: MSE difficult to assess due to language barrier + early 
morning eval

 
Pertinent Results:
ADMISSION LABS
___ 06:00PM BLOOD WBC-10.9 RBC-3.80* Hgb-10.9* Hct-32.4* 
MCV-85# MCH-28.6 MCHC-33.6# RDW-14.4 Plt ___
___ 06:00PM BLOOD Neuts-82.3* Lymphs-10.3* Monos-6.8 
Eos-0.3 Baso-0.2
___ 06:00PM BLOOD Glucose-256* UreaN-24* Creat-0.9 Na-131* 
K-3.7 Cl-93* HCO3-24 AnGap-18
___ 06:00PM BLOOD Albumin-4.1 Calcium-9.1 Phos-2.9 Mg-1.5*
___ 08:09PM URINE Blood-SM  Nitrite-NEG Protein-300 
Glucose-1000 Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG

REPORTS
___ CXR
IMPRESSION:  
Stable appearance of the chest without convincing evidence for 
pneumonia or CHF. 

___ CXR
IMPRESSION:  
Cardiomegaly is accompanied by pulmonary vascular congestion and 
moderate 
pulmonary edema.  Moderate right and small left pleural 
effusions are also demonstrated with adjacent bibasilar 
opacities which may reflect atelectasis, aspiration, and or 
developing infectious pneumonia. 

___ Echo
Conclusions  
The left atrium is elongated. The estimated right atrial 
pressure is ___ mmHg. There is mild symmetric left ventricular 
hypertrophy with normal cavity size. Due to suboptimal technical 
quality, a focal wall motion abnormality cannot be fully 
excluded. Overall left ventricular systolic function is normal 
(LVEF>55%). The number of aortic valve leaflets cannot be 
determined. There is no aortic valve stenosis. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. The pulmonary 
artery systolic pressure could not be determined. There is no 
pericardial effusion.    

___ CXR
IMPRESSION:  
  
Mild pulmonary edema which worsened on ___ has 
substantially improved. Small to moderate bilateral pleural 
effusion is smaller. Substantial bibasilar consolidation 
persists, most likely atelectasis, though not excluding 
pneumonia. The heart is partially obscured but is not severely 
dilated. Upper lungs are clear. No pneumothorax. 

MICROBIOLOGY
___ Blood culture negative x2

___ URINE CULTURE (Final ___:    NO GROWTH. 

___ Urine legionella
Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
           (Reference Range-Negative). 
      Performed by Immunochromogenic assay. 
      A negative result does not rule out infection due to other 
L.
      pneumophila serogroups or other Legionella species. 
Furthermore, in
      infected patients the excretion of antigen in urine may 
vary. 

DISCHARGE LABS
___ 05:45AM BLOOD Glucose-284* UreaN-30* Creat-1.1 Na-136 
K-4.1 Cl-96 ___ AnGap-22*

 
Brief Hospital Course:
___ year old ___ speaking woman with h/o CVA c/b residual L 
sided deficit, CAD, HTN, HLD, T2DM, cognitive decline, and B12 
defic anemia, who presented to the ED on ___ with 2 days of 
diarrhea, weakness, and fever, now with intermittent hypoxia and 
tachypnea.   

# Hypoxia/tachypnea:
Overnight on ___, Mrs. ___ developed hypoxia with fever 
to 101.4. DDx includes: CAP, HAP, aspiration PNA, diastolic HF. 
Since beginning presumptive tx for CAP using levofloxacin 750 
Q48h, Mrs. ___ has not spiked a fever. Urine legionella 
antigen and blood cultures negative. Speech and swallow 
evaluated the pt and felt that she was not aspirating to a 
significant degree. They recommended that she was safe to take 
PO pureed solids and thin liquids w/ 1:1 supervision. Initially, 
due to ongoing intermittent hypoxia to 87-88%, she was given 
several doses of furosemide. This did result in increased urine 
output and improvements in her CXR, but due to ___, furosemide 
was discontinued and home lisinopril was held. Renal funcion was 
improving at the time of discharge. She was successfully weaned 
to room air. She will complete a 7 day course of antibiotics for 
community acquired pneumonia.

# Hyponatremia: RESOLVED
Ddx: SIADH vs. reset osmostat. Failure to resolve with fluid 
challenge + urine osm and lytes consistent with SIADH (osm 447, 
UNa = 79). No prior hx of hyponatremia (dating back to ___ 
argues against reset osmostat. Resolved with fluid restriction.

# Diarrhea: RESOLVED
Initially presented with "large quantities of loose stool", per 
daughter, but no BMs since ___, small BM on ___. Likely 
symptom of pulmonary infection, though urine legionella antigen 
was negative.
Could also be due to viral gastroenteritis or aggressive home 
bowel regimen (includes 6 meds, given regularly). 

# Somnolence/AMS:  
The pt's alertness and gross MSE is improved since admission. 
Per PCP documentation and discussion with son, pt is at her 
baseline. Multiple negative UAs and culture make UTI unlikely 
cause. TSH wnl. 
  
# DM: Blood sugars consistently in the 200-300s range on lantus 
20u and humalog sliding scale. Home metformin and glipizide held 
while inpatient. Metformin not resumed on discharge given ___ 
during admission.
 
# CAD: ECHO normal. Imdur discontinued as patient cannot take 
whole pills and Imdur cannot be crushed. Replaced with 
Isosorbide Dinitrate TID. Home lisinopril discontuined due to 
___. BP well controlled without lisinopril. Home alodipine, 
aspirin and atorvastatin were continued.

Chronic issues:
# Glaucoma: continued home eye drops, with the exception of 
travaprost, which is not available.

# Hypothyroid: continued home levothyroxine  

TRANSITIONAL ISSUES
#Diabetes: Poor glycemic control in house. Home meds held, given 
humalog sliding scale, started on lantus, up to 20u qam, still 
with glucose in 200-300 range. Continuing to hold metformin on 
discharge given renal failure. Consider resumption in outpatient 
setting if renal function improves. 
#Hypertension: Lisinopril held for hyperkalemia and renal 
failure. Blood pressure well controlled. Continuing to hold on 
discharge. Consider not restarting if not needed for BP control.
#Dementia - Consider referral to outpatient neurologist for 
neuropsych testing

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 5 mg PO DAILY 
2. Atorvastatin 40 mg PO DAILY 
3. GlipiZIDE 5 mg PO DAILY 
4. Isosorbide Mononitrate (Extended Release) 90 mg PO DAILY 
5. Latanoprost 0.005% Ophth. Soln. 1 DROP RIGHT EYE HS 
6. Levothyroxine Sodium 112 mcg PO DAILY 
7. Lisinopril 20 mg PO DAILY 
8. MetFORMIN (Glucophage) 500 mg PO BID 
9. Metoprolol Tartrate 50 mg PO BID 
10. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
11. Omeprazole 20 mg PO BID 
12. Polyethylene Glycol 17 g PO DAILY 
13. travoprost 0.004 % ophthalmic HS 
14. Acetaminophen 325-650 mg PO Q6H:PRN pain or fever 
15. Aspirin 325 mg PO DAILY 
16. Bisacodyl 10 mg PO DAILY:PRN constipation 
17. Vitamin D ___ UNIT PO DAILY 
18. Artificial Tears Preserv. Free 1 DROP BOTH EYES QID:PRN dry 
eye 
19. Docusate Sodium 100 mg PO BID 
20. Milk of Magnesia Dose is Unknown  PO Q12H:PRN constipation 
21. Magnesium Oxide 400 mg PO DAILY 
22. Multivitamins 1 TAB PO DAILY 
23. Fish Oil (Omega 3) ___ mg PO DAILY 
24. Senna 8.6 mg PO BID:PRN constipation 

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain or fever 
2. Amlodipine 5 mg PO DAILY 
3. Artificial Tears Preserv. Free 1 DROP BOTH EYES QID:PRN dry 
eye 
4. Aspirin 325 mg PO DAILY 
5. Atorvastatin 40 mg PO DAILY 
6. Isosorbide Mononitrate 20 mg PO TID 
7. Latanoprost 0.005% Ophth. Soln. 1 DROP RIGHT EYE HS 
8. Levothyroxine Sodium 112 mcg PO DAILY 
9. Metoprolol Tartrate 50 mg PO BID 
10. Polyethylene Glycol 17 g PO DAILY 
11. Senna 8.6 mg PO BID:PRN constipation 
12. Vitamin D ___ UNIT PO DAILY 
13. Glargine 20 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin
14. Levofloxacin 750 mg PO Q48H Duration: 2 Doses 
one dose on ___, final dose on ___. 
15. Bisacodyl 10 mg PO DAILY:PRN constipation 
16. Docusate Sodium 100 mg PO BID 
17. Fish Oil (Omega 3) ___ mg PO DAILY 
18. GlipiZIDE 5 mg PO DAILY 
19. Magnesium Oxide 400 mg PO DAILY 
20. Milk of Magnesia ___ mL PO Q12H:PRN constipation 
21. Multivitamins 1 TAB PO DAILY 
22. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
23. travoprost 0.004 % ophthalmic HS 
24. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY 
25. Isosorbide Dinitrate 30 mg PO TID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: Community Acquired Pneumonia
Secondary: Insulin dependent diabetes, coronary artery disease, 
history of stroke, dementia, depression

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital for pneumonia. We have treated 
you with antibiotics and you seem to be feeling much better. 
Your breathing is improved and you have not had a fever in 
several days. You will finish up your antibiotics at rehab, 
where you can also work on improving your strength and ability 
to take care of yourself. 

Best Wishes,
Your ___ Care Team
 
Followup Instructions:
___